US04474914
O,O'-Bis-(2,4-di-tert-butylphenyl) phenylphosphonite
To a solution of 42.4 grams of 2,4-di-tert-butylphenol in 101 grams of triethylamine was added dropwise over a 15-minute period 17.9 grams of dichlorophenylphosphine. The reaction mixwas then heated for 6 hours at 65°-70° C. After cooling to room temperature, the reaction mixture was diluted with 50 ml of benzene and poured onto a rapidly stirred mixture of 70 grams of concentrated hydrochloric acid and 200 grams of chopped ice. The product was then isolated as in Example 17 with the product crystallized from acetonitrile as white crystals melting at 90°-93° C.

reactant | 2,4-di-tert-butylphenol | 42.4 grams | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
reactant | dichlorophenylphosphine | 17.9 grams | ClP(C1=CC=CC=C1)Cl | C6H5Cl2P
reactant | hydrochloric acid | 70 grams | Cl | ClH
solvent | triethylamine | 101 grams | C(C)N(CC)CC | C6H15N
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | O,O'-Bis-(2,4-di-tert-butylphenyl) phenylphosphonite | C1(=CC=CC=C1)P(OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C)OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C | C34H47O2P
